US07253286B2
N-Methyl-4-benzyloxy-2-fluoroaniline
After dissolving N-{1-(1H-benzotriazolyl)methyl}-4-benzyloxy-2-fluoroaniline (14.13 g, 40.56 mmol) in N,N-dimethylformamide (200 ml), methanol (150 ml) and ethanol (50 ml), there was added sodium borohydride (3.06 g, 81.12 mmol) and the mixture was stirred for 2.5 hours at room temperature. There was further added sodium borohydride (0.78 g, 20.28 mmol), and the mixture was stirred for 13.5 hours at room temperature. Water was added to the reaction solution, extraction was performed with ethyl acetate-tetrahydrofuran, the extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was adsorbed onto silica gel and purified by silica gel column chromatography (hexane-ethyl acetate system) to obtain the title compound (5.98 g, 26.31 mmol, 64.87%) as light yellow crystals.

reactant | N-{1-(1H-benzotriazolyl)methyl}-4-benzyloxy-2-fluoroaniline | 40.56 mmol, 14.13 g | N1(N=NC2=C1C=CC=C2)CNC2=C(C=C(C=C2)OCC2=CC=CC=C2)F | C20H17FN4O
reactant | sodium borohydride | 81.12 mmol, 3.06 g | [BH4-].[Na+]
reactant | sodium borohydride | 20.28 mmol, 0.78 g | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | methanol | 150 ml | CO | CH4O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-Methyl-4-benzyloxy-2-fluoroaniline | 26.31 mmol, 5.98 g, 64.87% | CNC1=C(C=C(C=C1)OCC1=CC=CC=C1)F | C14H14FNO
